US07238808B2
3-Pyridin-3-ylethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.10) (355 mg, 1.0 mmol) and commercially available 3-bromo-pyridine (158 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (211 mg, 49%). MS (EI) 432.2 [(M)+]; mp 173° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F | C16H7F6N3
reactant | 3-bromo-pyridine | 1.0 mmol, 158 mg | BrC=1C=NC=CC1 | C5H4BrN
product | 3-Pyridin-3-ylethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | N1=CC(=CC=C1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F | C21H10F6N4
